US04065504
25.0g syringealdehyde (0.137 mol), 26.6g of dimethyl sulfate (0.211 mol), and 27.7 g. of potassium carbonate (0.201 mol) were heated with stirring as in Example 1. When the temperature reached 45° C the mixture became fluid and carbon dioxide was given off. The temperature was slowly increased to 75° C and held at this value for 1 hour. Addition of water, acidification, and benzene extraction gave a quantitative yield of 3,4,5-trimethoxybenzaldehyde which contained no detectable syringealdehyde or other impurities as determined by g.l.c. analysis.

reactant | syringealdehyde | 0.137 mol, 25.0g | COC1=CC(=CC(=C1O)OC)C=O | C9H10O4
reactant | dimethyl sulfate | 0.211 mol, 26.6g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 0.201 mol | C([O-])([O-])=O.[K+].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 3,4,5-trimethoxybenzaldehyde | quantitative yield | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
